US07943575B2
SOMATULINE/DECAPEPTYL Composition
87.5 mg of DECAPEPTYL-acetate was dissolved in 2.6 ml water and placed in a first 5 ml syringe. 1.0 g of SOMATULINE was placed in a second 5 ml syringe and the second syringe placed under vacuum. The two syringes were connected via a valve and Millipore filter, the valve was opened, and the DECAPEPTYL solution allowed to flow into the evacuated SOMATULINE syringe. 10 transfers of the resultant solution was made between the two syringes via alternate depression of their respective plungers producing a homogeneous, semi-solid mixture.

reactant | DECAPEPTYL acetate | 87.5 mg | CC(C)C[C@@H](C(=O)N[C@@H](CCCN=C(N)N)C(=O)N1CCC[C@H]1C(=O)NCC(=O)N)NC(=O)[C@@H](CC2=CNC3=CC=CC=C32)NC(=O)[C@H](CC4=CC=C(C=C4)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC5=CNC6=CC=CC=C65)NC(=O)[C@H](CC7=CN=CN7)NC(=O)[C@@H]8CCC(=O)N8.C(C)(=O)[O-]
reactant | SOMATULINE | 1.0 g | CC(C)C1C(=O)NC(CSSCC(C(=O)NC(C(=O)NC(C(=O)NC(C(=O)N1)CCCCN)CC2=CNC3=CC=CC=C32)CC4=CC=C(C=C4)O)NC(=O)C(CC5=CC6=CC=CC=C6C=C5)N)C(=O)NC(C(C)O)C(=O)N | C54H69N11O10S2
solvent | water | 2.6 ml | O | H2O
product | SOMATULINE DECAPEPTYL | CC(C)C1C(=O)NC(CSSCC(C(=O)NC(C(=O)NC(C(=O)NC(C(=O)N1)CCCCN)CC2=CNC3=CC=CC=C32)CC4=CC=C(C=C4)O)NC(=O)C(CC5=CC6=CC=CC=C6C=C5)N)C(=O)NC(C(C)O)C(=O)N.CC(C)C[C@@H](C(=O)N[C@@H](CCCN=C(N)N)C(=O)N1CCC[C@H]1C(=O)NCC(=O)N)NC(=O)[C@@H](CC2=CNC3=CC=CC=C32)NC(=O)[C@H](CC4=CC=C(C=C4)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC5=CNC6=CC=CC=C65)NC(=O)[C@H](CC7=CN=CN7)NC(=O)[C@@H]8CCC(=O)N8 | InChI=1S/C64H82N18O13.C54H69N11O10S2/c1-34(2)23-46(56(88)75-45(13-7-21-69-64(66)67)63(95)82-22-8-14-52(82)62(94)72-31-53(65)85)76-58(90)48(25-36-28-70-42-11-5-3-9-40(36)42)78-57(89)47(24-35-15-17-39(84)18-16-35)77-61(93)51(32-83)81-59(91)49(26-37-29-71-43-12-6-4-10-41(37)43)79-60(92)50(27-38-30-68-33-73-38)80-55(87)44-19-20-54(86)74-44;1-29(2)45-54(75)63-44(53(74)65-46(30(3)66)47(57)68)28-77-76-27-43(62-48(69)38(56)23-32-15-18-33-10-4-5-11-34(33)22-32)52(73)60-41(24-31-16-19-36(67)20-17-31)50(71)61-42(25-35-26-58-39-13-7-6-12-37(35)39)51(72)59-40(49(70)64-45)14-8-9-21-55/h3-6,9-12,15-18,28-30,33-34,44-52,70-71,83-84H,7-8,13-14,19-27,31-32H2,1-2H3,(H2,65,85)(H,68,73)(H,72,94)(H,74,86)(H,75,88)(H,76,90)(H,77,93)(H,78,89)(H,79,92)(H,80,87)(H,81,91)(H4,66,67,69);4-7,10-13,15-20,22,26,29-30,38,40-46,58,66-67H,8-9,14,21,23-25,27-28,55-56H2,1-3H3,(H2,57,68)(H,59,72)(H,60,73)(H,61,71)(H,62,69)(H,63,75)(H,64,70)(H,65,74)/t44-,45-,46-,47-,48+,49-,50-,51-,52-;/m0./s1
